US03953476
Step B: Preparation of 3-methylsulfonyl-4-chloro-5-nitrobenzoic acid
To a stirred mixture of concentrated sulfuric acid (75 ml.) and concentrated nitric acid (48 ml.), cooled to 15° C., is added a solution of 3-methylsulfonyl-4-chlorobenzoic acid (31.5 g.; 0.134 mole) in concentrated sulfuric acid (185 ml.). The reaction mixture is heated on a steam bath for 21/2 hours then poured into ice. There is collected 34 g. (91%) of 3-methylsulfonyl-4-chloro-5-nitrobenzoic acid, m.p. 197° C. after recrystallization from ethanol.

reactant | nitric acid | 48 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-methylsulfonyl-4-chlorobenzoic acid | 0.134 mole, 31.5 g | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C8H7ClO4S
solvent | sulfuric acid | 185 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 75 ml | S(O)(O)(=O)=O | H2O4S
product | 3-methylsulfonyl-4-chloro-5-nitrobenzoic acid | CS(=O)(=O)C=1C=C(C(=O)O)C=C(C1Cl)[N+](=O)[O-] | C8H6ClNO6S
